US04175190
5.6 G. of dimethyl racemic-6-(3-hydroxy-1-piperidinyl)-2,4-pyrimidine-dicarbamate-3-oxide are suspended in 100 ml. of methylene chloride and 100 ml. of water. The suspension is adjusted with concentrated sodium hydroxide to pH 12.7. The mixture is stirred for 1 hour, the two phases are then separated and the aqueous phase is adjusted to pH 3 with concentrated hydrochloric acid, a white precipitate separating out. This precipitate is filtered off and recrystallized from a mixture of methylene chloride and methanol, there being obtained pure methyl racemic-5-(3-hydroxy-1-piperidinyl)-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]pyrimidine-7-carbamate, having a melting point of 244°-247° C. (decomposition).

reactant | dimethyl racemic-6-(3-hydroxy-1-piperidinyl)-2,4-pyrimidine-dicarbamate-3-oxide | OC1CN(CCC1)C1=CC(=[N+](C(=N1)NC(=O)OC)[O-])NC(=O)OC | C13H19N5O6
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | methyl racemic-5-(3-hydroxy-1-piperidinyl)-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]pyrimidine-7-carbamate | OC1CN(CCC1)C1=NC=2N(C(=C1)NC(=O)OC)OC(N2)=O | C12H15N5O5
